US05439925
4-(3-tert-Butyl-4-methoxybenzoyloxymethyl)phenol
1.24 g (0.01 mol) of 4-hydroxybenzenemethanol, 1 ml (0.01 mol) of pyridine and 50 ml of THF are introduced into a round-bottomed flask. While cooling in an icebath, a solution of 2.2 g (0.01 mol) of 3-tert-butyl-4-methoxybenzoyl chloride in 50 ml of THF is introduced dropwise and the mixture is stirred at room temperature for 24 h. The reaction medium is poured into water, the mixture is extracted with ethyl ether and the organic phase is separated after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a silica column and eluted with a mixture of dichloromethane and ethyl ether (97:3).

reactant | 4-hydroxybenzenemethanol | 0.01 mol, 1.24 g | OC1=CC=C(C=C1)CO | C7H8O2
reactant | pyridine | 0.01 mol, 1 ml | N1=CC=CC=C1 | C5H5N
reactant | 3-tert-butyl-4-methoxybenzoyl chloride | 0.01 mol, 2.2 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=CC1OC | C12H15ClO2
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(3-tert-Butyl-4-methoxybenzoyloxymethyl)phenol | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=C(C=C2)O)C=CC1OC | C19H22O4
